US06184244B2
N-(valinyl)-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester
To a solution of N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester (6.12 g, 10.50 mmol) in MeOH (300 ml) was added 10% palladium on carbon (0.92 g) at room temperature. The reaction was stirred for 3 hours under hydrogen (1 atm), then filtered through a pad of celite. The filter cake was washed with MeOH. The filtrate was concentrated in vacuo to provide the titled product as a viscous yellow oil (4.69 g, 10.30 mmol, 98%). MS C20H20N2O5, [M+Na]+ =475, [M−H]− =451.

reactant | N-[(carbobenzyloxycarbonyl)valinyl]-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 10.50 mmol, 6.12 g | C(=O)(OCC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)O | C29H34F4N2O8
solvent | MeOH | 300 ml | CO | CH4O
catalyst | palladium on carbon | 0.92 g | [Pd] | Pd
product | N-(valinyl)-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 10.30 mmol, 4.69 g, 98% | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)O | C20H28F4N2O5
